US05262533
To a stirred solution of tris(3,4-dimethylphenyl)bismuthine (200 mg, 0.381 mmol) in CH2Cl2 (3 mL.) is added bis(trifluoroacetoxy)iodobenzene (165 mg, 0.383 mmol). One mL of this solution was transferred to a 10 mL flask. To this solution is added 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg, 0.128 mmol) and Cu(OAc)2 (catalytic). The mixture is stirred overnight. The reaction mixture is quenched with saturated aqueous NaHCO3 and extracted 4× with CH2Cl2. The organic extracts are combined and dried over anhydrous Na2SO4. The mixture is filtered and concentrated in vacuo. The products are isolated by first by radial chromatography on silica gel affording 17-ethyl-1,14-dihydroxy-12-[2'-(3"-(3'",4'"-dimethylphenyloxy)-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone.

reactant | tris(3,4-dimethylphenyl)bismuthine | 0.381 mmol, 200 mg | CC=1C=C(C=CC1C)[Bi](C1=CC(=C(C=C1)C)C)C1=CC(=C(C=C1)C)C
reactant | bis(trifluoroacetoxy)iodobenzene | 0.383 mmol, 165 mg | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.128 mmol, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)O)=O | C42H67NO12
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(3"-(3'",4'"-dimethylphenyloxy)-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC2=CC(=C(C=C2)C)C)C)C)O)=O | C50H75NO12
